US04119710
1-(4'-Amino-3'-trifluoromethyl-phenyl)-2-tert.pentylamino-ethanol hydrobromide by method D
5 gm of 1-(4'-amino-3'-bromo-5'-trifluoromethyl-phenyl)-2-tert.pentylamino-ethanol hydrochloride were distributed between ethyl acetate and 2N ammonia. The organic layer was dried and evaporated in vacuo, the residual base was dissolved in 100 ml of methanol in a hydrogenation vessel. 2.5 gm of palladium oxide/barium sulfate catalyst (5%) were added, and the mixture was hydrogenated until 1 mol of hydrogen had been absorbed. After the catalyst had been removed by filtration, the filtrate was evaporated in vacuo, and the solid residue was recrystallized from isopropanol. The obtained hydrobromide melted at 174°-175° C. (decomp.).

reactant | 1-(4'-amino-3'-bromo-5'-trifluoromethyl-phenyl)-2-tert.pentylamino-ethanol hydrochloride | 5 gm | Cl.NC1=C(C=C(C=C1C(F)(F)F)C(CNC(C)(C)CC)O)Br
reactant | ammonia | 2N | N | H3N
reactant | hydrogen | 1 mol | [H][H] | H2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4'-Amino-3'-trifluoromethyl-phenyl)-2-tert.pentylamino-ethanol hydrobromide | Br.NC1=C(C=C(C=C1)C(CNC(C)(C)CC)O)C(F)(F)F | InChI=1S/C14H21F3N2O.BrH/c1-4-13(2,3)19-8-12(20)9-5-6-11(18)10(7-9)14(15,16)17;/h5-7,12,19-20H,4,8,18H2,1-3H3;1H
